US07776875B2
Preparation of Intermediate racemic (2′S,3S,4′R)-6-chloro-5-fluoro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-ethyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A mixture of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-1-ethyl-propoxy)-phenyl]-5-fluoro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (120 mg, 0.19 mmol), LiOH.H2O (140 mg, 3.3 mmol), H2O (1.25 mL) and methanol (3.75 mL) was heated at 80° C. for 1 h. After cooled to room temperature, the mixture was acidified by addition of 0.5 N HCl and partitioned between EtOAc and water. The organic phase was washed with brine, dried over anhydrous Na2SO4 and concentrated to give the crude product, which was used for the next step reaction without further purification.

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-1-ethyl-propoxy)-phenyl]-5-fluoro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.19 mmol, 120 mg | ClC1=C(C=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CC)(CC)C(=O)OC)=O)C1=C(C=CC(=C1)F)C)=O)F | C32H30Cl2F2N2O5
reactant | LiOH.H2O | 3.3 mmol, 140 mg | O[Li].O
reactant | H2O | 1.25 mL | O | H2O
reactant | HCl | 0.5 N | Cl | ClH
solvent | methanol | 3.75 mL | CO | CH4O
product | racemic (2′S,3S,4′R)-6-chloro-5-fluoro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-ethyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | ClC1=C(C=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CC)(CC)C(=O)O)=O)C1=C(C=CC(=C1)F)C)=O)F | C31H28Cl2F2N2O5
